data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5786,"CC(C)[C:1]1=[C:2]([O-:3])C(C2CCC3=C(C=CC=C3)C2[C:4]([CH2:5][H:6])=[O:7])CC1|(3, 2);((2, 1), 6);((6, 5), 4);((4, 7), 7)"
train,pmechdb_split_0,0,5048,"CCC=C(C)C(O[B-:1](C1CCCCC1)([CH:2]1CCCCC1)[O:3][OH:4])C(C)C(=O)C(C)COCC1=CC=CC=C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3057,"C[N:1](C=O)[Br:2].C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6337,"CC1(O)CC2C[CH:1]([C:2](C)([OH:3])[O:4][O:5]C(=O)C3=CC=CC(Cl)=C3)CC3(OCCO3)C2(C)CC1O|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4181,"C1=CC=C(CCC[CH:1]=[CH2:2])C=C1.O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7946,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[CH:2](C)[Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7519,"C[P+:1](C)(C)[O:2][CH3:3].C[S-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4516,"C=CC(=C)C[B:1](CCC)CCC.CC(C)CC=[O:2]|(2, 1)"
train,pmechdb_split_0,0,753,"CC=C[CH2:1][O:2][PH+:3](Br)Br.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,2009,"CC1(C2=CC=CC=C2)CCC[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2767,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O=S(=O)([O-])O.OC1C[NH2+]C(C(OCC2=CC=CC=C2)=[O+:1][H:2])C1.OCC1=CC=CC=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7210,"CC(=O)[O-].CC12CCC3C(CC[C:1]4=[CH:2]C5(CCC34[CH2:3][O:4]S(C)(=O)=O)SCCS5)C1CCC2=O|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9877,"CC[O-:1].C[CH:2]([H:3])[CH:4](C)[O:5]S(=O)(=O)C(F)(F)F|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,18,"CCOCCC(N)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9514,"CC(C)(C)O.CC1=CC=C([S:1](=O)(=O)[N-:2][N:3]=CC2=CC=CC=C2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1233,"CCOC(=O)C1(C(=O)OCC)C(C)CCC(C#N)(C(=N)[O+:1](CC)[H:2])C1CC(C)=O.CC[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6695,"CC(C1=CC=CC=C1)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6181,"CC(C)[O-].CCCCCC(CC)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,4534,"CC(C)C[CH2-:1].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,6365,"C=C(COCC1=CC=CC=C1)CC(C)CC(O[Si](C(C)C)(C(C)C)C(C)C)C(O[Si](C)(C)C)[CH:1]=[O+:2][Li-][O:3][C:4](C(C)CC(C)CN=[N+]=[N-])=[CH2:5].CC(C)NC(C)C|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2715,"C1=CN=C(CC[O-:1])C=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4248,"C1=CC=C([S-:1])C=C1.CCCCC1[CH2:2][O:3]1.CCO.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8963,"C#CCC1=C([N:1]=[N:2][OH2+:3])C=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3923,"OC[CH:1]([H:2])[CH:3]=[OH+:4].[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2206,"CBr.CCCCCCN1CCC23C4=C5C=CC(O[B:1](Br)Br)=C4OC2C(=O)CCC3(O)C1C5.O.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,2110,"CCCCCC1CC(C2CCCCC2)C(OC(C)=[O:1])[CH:2]([O:3]S(=O)(=O)C2=CC=C(C)C=C2)C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5616,"C#CCOC(=O)C1(C)COC(C)(C)[O:1]C1.CO.O.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8375,"COP(=O)(CC=[O+:1][Li:2])OC|((2, 1), 1)"
train,pmechdb_split_0,0,9074,"C1CCOC1.CC1=CN=C(C2(O)CCC(OCCO)([OH+:1][H:2])CC2)S1.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8663,"CC(C)([O-])[NH+:1](O)[H:2].O[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3236,"O=C(CCl)[O-:1].[OH][Ca:2][OH2+]|(1, 2)"
train,pmechdb_split_0,0,3673,"Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C1C2=CC=CC3=CC=CC(=C32)C(=O)N1CCC[O:1][H:2].O=C1CCC(=O)[N-:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6176,"C=CC1(C)CCC2(O1)C(=[O+:1][H:2])CCC1C(C)(C)CCCC12C.CC1=CC=C(S(=O)(=O)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4904,"CC[N+:1](=C(C)C)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4894,"CC(=O)C1=CC2=C(C=C1)C=C[CH+:1][C:2]2([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6393,"C[CH+:1]CCC[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,4105,"C[N:1](C=O)[I:2].C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2900,"C[C:1](O)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4485,"CC[C:1](C)(C#N)[H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4491,"C[CH2][Al-]([Cl])([Cl])[O]C12CCCC(C1)[C+:1]([CH2:2][Si-:3](C)(C)(C)Cl)C2|((3, 2), 1)"
train,pmechdb_split_0,0,4214,"CC(=O)[O-:1].O.O=C(O)C[N+:2]1=[C:3](C2=CC=CO2)[CH:4]([H:5])C=C1C1=CC=CC=C1|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,2126,"C[N+:1](CC[O:2][B-](F)(F)F)=[CH:3]C|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,5391,"CC[CH:1]([O-:2])[O:3]C(C)[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5966,"OCC[CH:1]([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3839,"CC(O)C1CCC[O+:1]1[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4066,"CC(=O)[O][Na].CC[O-:1].[Na][OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3347,"CO[PH](Br)(OC)[O+:1](C)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
